US07560569B2
In a similar manner to Example 87, (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg) and 2-amino-5-trifluoromethyl-1,3,4-thiadiazole (57.5 mg) were used to obtain (2S,4S)-4-fluoro-1-[[N-[4-[N-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile (12.0 mg).

reactant | (2S,4S)-1-[[N-(4-carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 2-amino-5-trifluoromethyl-1,3,4-thiadiazole | 57.5 mg | NC=1SC(=NN1)C(F)(F)F | C3H2F3N3S
product | (2S,4S)-4-fluoro-1-[[N-[4-[N-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]pyrrolidine-2-carbonitrile | 12.0 mg | F[C@H]1C[C@H](N(C1)C(CNC12CCC(CC1)(CC2)C(=O)NC=2SC(=NN2)C(F)(F)F)=O)C#N | C19H22F4N6O2S
